US07528134B2
1-isopropoxy-2-nitrobenzene
A solution of 2-nitrophenol (10 g, 71.9 mmol) and potassium carbonate (21.85 g, 158.1 mmol) in N,N-dimethylformamide:acetone (1:2, 150 mL) was heated under reflux and isopropyl bromide (14.8 mL, 158 mmol) was added dropwise (in 30 minutes) during reflux and stirred overnight. The reaction was cooled to room temperature and partitioned between water and ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (10% ethyl acetate:hexanes) to provide the title compound as a golden yellow oil (11.5 g, 88%). 1H NMR (300 MHz, CDCl3) δ 1.4 (d, 6H, J=6 Hz), 4.7 (septet, 1H, J=6 Hz), 6.98 (m, 1H), 7.09 (d, 1H, J=9 Hz), 7.45 (m, 1H), 7.78 (dd, 1H, 3 Hz); MS (DCI/NH3) m/e 182 (M+H)+.

reactant | 2-nitrophenol | 71.9 mmol, 10 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 158.1 mmol, 21.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 158 mmol, 14.8 mL | C(C)(C)Br | C3H7Br
solvent | N,N-dimethylformamide acetone | 150 mL | CN(C=O)C.CC(=O)C
product | 1-isopropoxy-2-nitrobenzene | 11.5 g, 88% | C(C)(C)OC1=C(C=CC=C1)[N+](=O)[O-] | C9H11NO3
